data/polar.json
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:18])([O:25][CH2:5][c:15]1[cH:21][cH:8][cH:13][cH:11][cH:24]1)[N:31]=[N:30][C:2](=[O:19])[O:26][CH2:6][c:16]1[cH:22][cH:9][cH:14][cH:10][cH:23]1.[CH3:3][CH:20]([CH3:4])[N+:29]1=[N:32][N:28]([CH:7]([CH3:33])[CH3:34])[C:35](=[CH2:27])[C-:12]1[C:17]([CH3:36])([CH3:37])[CH3:38]>>[C:1]([O-:18])([O:25][CH2:5][c:15]1[cH:21][cH:8][cH:13][cH:11][cH:24]1)=[N:31][N:30]([C:2](=[O:19])[O:26][CH2:6][c:16]1[cH:22][cH:9][cH:14][cH:10][cH:23]1)[CH2:27][c:35]1[c:12]([C:17]([CH3:36])([CH3:37])[CH3:38])[n+:29]([CH:20]([CH3:3])[CH3:4])[n:32][n:28]1[CH:7]([CH3:33])[CH3:34]", "epd": [["LP-/Pi+", [12], [35, 12]], ["Pi-/Sigma+", [27, 35], [27, 30]], ["Pi-/Pi+", [30, 31], [31, 1]], ["Pi-/LP+", [1, 18], [18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]1(=[O:12])[CH:33]=[CH:21][C:30](=[N+:35]([O-:28])[O-:29])[CH:22]=[CH:34]1.[C:2]([CH:8]1[N+:14](=[CH:4][CH:31]=[CH:9][c:20]2[cH:5][cH:15][cH:3][cH:16][cH:6]2)[CH:13]([CH2:32][c:26]2[cH:36][cH:10][cH:17][cH:11][cH:37]2)[C:19](=[O:7])[N:27]1[CH3:18])([CH3:23])([CH3:24])[CH3:25]>>[c:1]1([O:12][CH:9]([c:20]2[cH:5][cH:15][cH:3][cH:16][cH:6]2)[CH:31]=[CH:4][N:14]2[CH:8]([C:2]([CH3:23])([CH3:24])[CH3:25])[N:27]([CH3:18])[C:19](=[O:7])[CH:13]2[CH2:32][c:26]2[cH:36][cH:10][cH:17][cH:11][cH:37]2)[cH:33][cH:21][c:30]([N+:35](=[O:28])[O-:29])[cH:22][cH:34]1", "epd": [["LP-/Pi+", [28], [35, 28]], ["Pi-/Pi+", [30, 35], [21, 30]], ["Pi-/Pi+", [33, 21], [1, 33]], ["Pi-/Sigma+", [12, 1], [12, 9]], ["Pi-/Pi+", [9, 31], [31, 4]], ["Pi-/LP+", [4, 14], [14]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:39](=[O:2])([c:20]1[cH:4][cH:14][c:26]([CH3:40])[cH:15][cH:5]1)[n:28]1[cH:19][c:24]([N+:23](=[O:7])[O-:9])[c:25]2[cH:12][cH:32][c:18]([N+:38](=[O:35])[O-:37])[cH:3][c:29]21.[c:6]1([S:27](=[O:33])(=[O:34])[CH-:41][c:13]2[cH:10][cH:30][cH:36][cH:31][cH:11]2)[cH:16][cH:21][cH:8][cH:22][cH:17]1>>[O:1]=[S:39](=[O:2])([c:20]1[cH:4][cH:14][c:26]([CH3:40])[cH:15][cH:5]1)[N:28]1[CH:19]([CH:41]([c:13]2[cH:10][cH:30][cH:36][cH:31][cH:11]2)[S:27]([c:6]2[cH:16][cH:21][cH:8][cH:22][cH:17]2)(=[O:33])=[O:34])[C:24](=[N+:23]([O-:7])[O-:9])[c:25]2[cH:12][cH:32][c:18]([N+:38](=[O:35])[O-:37])[cH:3][c:29]21", "epd": [["LP-/Sigma+", [41], [41, 19]], ["Pi-/Pi+", [19, 24], [24, 23]], ["Pi-/LP+", [23, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:2][C:8](=[C:4]=[N-:11])[c:13]1[cH:14][cH:20][cH:25][cH:21][cH:15]1.[O-:1][n+:7]1[o:24][n:17][c:9]2[c:12]3[n+:6]([O-:18])[o:3][n:22][c:16]3[c:19]([N+:5]([O-:23])=[O:26])[cH:10][c:27]12>>[O-:1][n+:7]1[o:24][n:17][c:9]2[c:27]1[CH:10]([C:8]([CH3:2])([C:4]#[N:11])[c:13]1[cH:14][cH:20][cH:25][cH:21][cH:15]1)[C:19](=[N+:5]([O-:23])[O-:26])[c:16]1[c:12]-2[n+:6]([O-:18])[o:3][n:22]1", "epd": [["LP-/Pi+", [11], [4, 11]], ["Pi-/Sigma+", [8, 4], [8, 10]], ["Pi-/Pi+", [10, 19], [19, 5]], ["Pi-/LP+", [5, 26], [26]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:5][CH2:15][OH:12].[cH:1]1[cH:2][cH:11][cH:4][c:6]2[c:3]1[N+:17]([CH3:8])=[CH:10][C:9]2=[CH:7][c:16]1[cH:13][cH:18][cH:20][cH:19][cH:14]1>>[cH:1]1[cH:2][cH:11][cH:4][c:6]2[c:3]1[n:17]([CH3:8])[cH:10][c:9]2[CH:7]([OH+:12][CH2:15][CH3:5])[c:16]1[cH:13][cH:18][cH:20][cH:19][cH:14]1", "epd": [["LP-/Sigma+", [12], [12, 7]], ["Pi-/Pi+", [7, 9], [9, 10]], ["Pi-/LP+", [10, 17], [17]]]}
{"reaction_name": "Nosyl deprotection by elimination", "rsmi": "[CH3:1][NH:2][S:3](=[O:4])(=[O:5])[c:6]1[cH:7][cH:8][c:9]([N+:10](=[O:11])[O-:12])[cH:13][cH:14]1.[S-:15][CH3:16]>>[CH3:1][NH-:2].[CH3:16][S:15][S:3](=[O:4])(=[O:5])[c:6]1[cH:7][cH:8][c:9]([N+:10](=[O:11])[O-:12])[cH:13][cH:14]1", "epd": [["LP-/Sigma+", [15], [3, 15]], ["Sigma-/LP+", [2, 3], [2]]]}
{"reaction_name": "Intramolecular acyl-enolate condensation", "rsmi": "[C:1]([O:3][CH3:8])([CH2:10][CH2:5][CH:9]([C:7]([CH3:6])=[O:11])[H:13])=[O:12].[O-:2][CH3:4]>>[C:1]1(=[O:12])[CH:9]([C:7]([CH3:6])=[O:11])[CH2:5][CH2:10]1.[O-:3][CH3:8].[O:2]([CH3:4])[H:13]", "epd": [["Sigma-/Sigma+", [9, 13], [1, 9]], ["Pi-/LP+", [1, 12], [12]], ["LP-/Pi+", [12], [1, 12]], ["Sigma-/LP+", [1, 3], [3]], ["LP-/Sigma+", [2], [2, 13]]]}
